* source I-TESTCURRENT-001
I_EXPONENCIAL         N17870 0 DC 0Adc AC 0Aac
+EXP 0 4m 2n 30p 2.2n 500p
R_R1         N17870 ITEST  1k TC=0,0 
R_R2         0 ITEST  1k TC=0,0 
